US05594021
To the cold (~5° to 0° C.) solution of 2-(2-tolyl)thiophene (0.87 g, 5 mmole) was added chlorosulfonic acid (0.33 ml, 5 mmole) over a 15 min. period with constant stirring. After 10 min., phosphorous oxychloride (2 ml) and phosphorous pentachloride were added. The reaction mixture was slowly allowed to attain ambient temperature and stirred for 3 hours. The mixture was then poured onto crushed ice (50 g) and was extracted with ethyl acetate (2×50 ml). The combined organic layers was dried over MgSO4 and evaporated. The residue was purified by flash column chromatography on silica gel using 2% ethyl acetate in hexane to give 2-chlorosulfonyl-5-(2-tolyl)thiophene, (1.1 g, 72% yield).

reactant | 2-(2-tolyl)thiophene | 5 mmole, 0.87 g | C1(=C(C=CC=C1)C=1SC=CC1)C | C11H10S
reactant | chlorosulfonic acid | 5 mmole, 0.33 ml | ClS(=O)(=O)O | ClHO3S
reactant | phosphorous oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 2-chlorosulfonyl-5-(2-tolyl)thiophene | 1.1 g, 72% yield | ClS(=O)(=O)C=1SC(=CC1)C1=C(C=CC=C1)C | C11H9ClO2S2
